US08461158B2
Treatment of tert-butyl 4-(4-(2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl)-6-morpholino-1,3,5-triazin-2-yloxy)piperidine-1-carboxylate (112 mg, 0.2 mmol) with TFA (5 mL) in CH2Cl2 (10 mL), followed by quenching with aqueous NH3 gave 2-(difluoromethyl)-4-methoxy-1-(4-morpholinyl)-6-(4-piperidinyloxy)-1,3,5-triazin-2-yl]-1H-benzimidazole: 1H NMR (DMSO-d6) δ 7.96 (dd, J=8.4, 0.5 Hz, 1H), 7.71 (t, JHF=52.8 Hz, 1H), 7.44 (t, J=8.3 Hz, 1H), 6.98 (d, J=7.7 Hz, 1H), 5.11 (m, 1H), 3.98 (s, 3H), 3.83 (m, 4H), 3.71 (m, 4H), 3.00 (m, 2H), 2.62 (m, 2H), 2.00 (m, 2H), 1.58 (m, 2H).

reactant | tert-butyl 4-(4-(2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl)-6-morpholino-1,3,5-triazin-2-yloxy)piperidine-1-carboxylate | 0.2 mmol, 112 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)OC1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H33F2N7O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1H-benzimidazole | N1C=NC2=C1C=CC=C2 | C7H6N2
